US08003645B2
(3B) 2-methyl-N-(3-hydroxyphenyl)-N′-(3-methoxyphenyl)-pyrimidine-4,6-diamine
2-methyl-4-chloro-6-(3-hydroxyphenylamino)pyrimidine (0.71 g, 3.0 mmol) was added to a 2-ethoxyethanol (2.0 mL) solution of 3-methoxyaniline (0.37 g, 3.0 mmol) under a nitrogen atmosphere and the reaction mixture stirred for 5 hours at 130° C.

reactant | 2-methyl-4-chloro-6-(3-hydroxyphenylamino)pyrimidine | 3.0 mmol, 0.71 g | CC1=NC(=CC(=N1)Cl)NC1=CC(=CC=C1)O | C11H10ClN3O
reactant | 2-ethoxyethanol | 2.0 mL | C(C)OCCO | C4H10O2
reactant | 3-methoxyaniline | 3.0 mmol, 0.37 g | COC=1C=C(N)C=CC1 | C7H9NO
product | 2-methyl-N-(3-hydroxyphenyl)-N′-(3-methoxyphenyl)-pyrimidine-4,6-diamine | CC1=NC(=CC(=N1)NC1=CC(=CC=C1)O)NC1=CC(=CC=C1)OC | C18H18N4O2
